US08334287B2
4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one
To a solution of 85 mg (0.274 mmol) of 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one in 6 ml of DME were added 76 mg (0.55 mmol) of potassium carbonate and 0.034 ml (0.55 mol) of methyl iodide. The suspension was stirred at room temperature for 30 h. The mixture was diluted with 20 ml of ethyl acetate, filtered and concentrated in vaccuo. After purification by flash chromatography on silicagel one obtains 53 mg (0.163 mmol, 60%) of the title compound, as a crystalline yellow solid, MS: m/e=324.2, 326.2 (M+H+).

reactant | 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one | 0.274 mmol, 85 mg | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(NC=C1)=O)C | C17H12ClN3O
reactant | potassium carbonate | 0.55 mmol, 76 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.55 mol, 0.034 ml | CI | CH3I
solvent | DME | 6 ml | COCCOC | C4H10O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one | 0.163 mmol, 53 mg, 60% | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(N(C=C1)C)=O)C | C18H14ClN3O
